US04451642
A. 4,4'-Bis(1,1-dimethyl-2-carboxyethyl)biphenyl
In a 1 liter flask equipped with a magnetic stirrer, a reflux condenser capped with a nitrogen bubbler, and an addition funnel was put 250 g of carbon disulfide, 23.1 g of biphenyl and 80 g of anhydrous aluminum chloride. To this stirred mixture, a solution of 30.0 g of β,β-dimethyl acrylic acid dissolved in 165 ml of carbon disulfide was added from the addition funnel in about 1/4 hour. The resulting mixture was stirred at room temperature for 2 hours and then heated to gentle reflux for 1 hour. After being cooled to room temperature, the mixture was poured into 1 kilogram of chopped ice with vigorous stirring, and stirred for about 16 hours.

reactant | biphenyl | 23.1 g | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | aluminum chloride | 80 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | β,β-dimethyl acrylic acid | 30.0 g | CC(=CC(=O)O)C | C5H8O2
solvent | carbon disulfide | 165 ml | C(=S)=S | CS2
solvent | carbon disulfide | 250 g | C(=S)=S | CS2
product | 4,4'-Bis(1,1-dimethyl-2-carboxyethyl)biphenyl | CC(CC(=O)O)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)C(CC(=O)O)(C)C | C22H26O4
